Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
diarrhea and mental status changes
 
Major Surgical or Invasive Procedure:
___ PICC line placement with angiography
 
History of Present Illness:
History of Present Illness: 
The patient is an ___ year old female with a history of actively 
treated C. diff colitis, pneumobilia, CAD, hypertension, and 
hyperlipidemia who presented to the ED from her nursing home 
with diarrhea, worsening mental status, and low blood pressure.  
Per nursing home records, she had been having loose stools for 
the last 4 days.  She was being actively treated for C. diff 
colitis with Flagyl 500 mg PO TID, receiving her last dose on 
___ evening. She then began having low BPs, cold lower 
extremities, weakness, and poor appetite.
.
She initially developed C diff after a right hip fracture s/p 
right hip hemiarthroplasty on ___, which was complicated by 
a UTI and pneumonia.  She was on antibiotics for the pneumonia 
and subsequently developed C diff colitis.  She was admitted to 
___ from ___ to ___ for treatment of her C diff, and 
improved rapidly after IV fluids, Vancomycin PO, and Flagyl IV.  
She was discharged on a course of Flagyl PO.  Her current course 
of Flagyl was started on ___.  It is unclear if she has 
needed additional courses between her last admission and today.
.  
In the ED, initial vitals were: T 102.8, BP 135/77, HR 140, RR 
29, SpO2 92% on 2L NC.  Initial labs were notable for WBC 54.0 
(0% bands, 2% metas, 1% myelos), Hct 48.0, INR 1.8, creatinine 
1.2 (recent baseline 0.4-0.6), and Lactate 5.6.  Her UA showed 
WBC 6, many bacteria, small leuk esterase, and negative nitrite. 
 CXR was markedly suboptimal showing low lung volumes, bibasilar 
opacities likely atelectasis, moderately enlarged heart 
unchanged, and large hiatus hernia.  
.
CT abdomen showed a large stable hiatal hernia, pneumobilia, and 
diffuse colonic wall edema and stranding.  Surgery consult was 
called and did not feel that there were any acute surgical 
issues.  The pneumobilia was noted to be present on prior CTA 
chest from ___, though not commented upon in the radiology 
report.  Surgical consult felt that this may be postsurgical 
from prior cholecystectomy or sphinterotomy.
.
IV access was obtained with 18g x2 and 20g x1 peripherals IVs.  
She was treated with Vancomycin 1000 mg IV (not PO), Flagyl 500 
mg IV, and Levofloxacin 750 mg IV.  Because of her Lactate 5.6 
and tachycardia, she was given a total of 8L IV fluids in the 
ED, with her lactate decreasing to 2.0 afterwards.  Given the 
severity of her infection and continued tachycardia despite IV 
fluids, she was admitted to the ICU for further management.  
Vitals prior to transfer were T 103 rectally, HR 124, BP 114/58, 
RR 22, and SpO2 96% on 2L.
.
On arrival to the ICU, she was fatigued but easily rousable and 
conversant.  She was oriented to person, "hospital", and ___. 
 She reported fever, abdominal discomfort, and generally feeling 
unwell, but was unable to describe her symptoms further.  She 
reports having diarrhea for the last 2 weeks.  She denied any 
chest pain, cough, or nausea.  She did note some shortness of 
breath and was breathing somewhat rapidly.
.
Review of systems:
(+) Per HPI
(-) Denies headache, rhinorrhea, or congestion.  Denies cough, 
chest pain, chest pressure, or palpitations.  Denies nausea, 
vomiting. Denies dysuria, frequency, or urgency.  Denies rashes 
or skin changes.  
 
Past Medical History:
# C diff colitis
-- developed after hip fracture ___
-- admission ___ to ___
-- improved after IV fluids, Flagyl IV, and Vancomycin PO
-- currently on Flagyl 500 mg PO TID
# Coronary Artery Disease
# Hypertension
# Hyperlipidemia
# Depression
# s/p TAH/BSO
# Decubitus ulcer
# Nonmalignant pancreatic mass removed (___)
# Right shoulder replacement
# Right hip fracture
-- s/p right hip hemiarthroplasty ___
-- complicated by pneumonia and UTI
-- subsequent C diff colitis
 
Social History:
___
Family History:
Several aunts and uncles with cancer, no history of DM or heart 
disease. 

 
Physical Exam:
Admission Physical Exam:  
Vitals: T 98.8, BP 123/109, HR 133, RR 24, SpO2 98% on 2L NC
General: Alert. Oriented to person, hospital and year.  Appears 
uncomfortable.
HEENT: Sclera anicteric, dry mucous membranes, oropharynx benign
Neck: JVP not elevated, no LAD
Lungs: Few scattered wheezes on right side, otherwise clear to 
auscultation with no crackles or rhonchi.
CV: Regular tachycardia, normal S1 and S2, no murmurs, rubs, 
gallops
Abdomen: Soft, not distended, diffusely tender to palpation
GU: no foley
Ext: Warm, well perfused, 2+ pulses. No cyanosis or edema.

Discharge Physical Exam:
Vitals: T 37.2 °C HR: 110 BP: 123/63 RR: 29 SpO2: 94% 
General: Decreased mental status.  Answers some questions, but 
moans and speech is less coherent.  Tachypneic.
HEENT: Sclera anicteric, dry mucous membranes.  Right cheek to 
jaw with swelling over parotid gland.  Not warm to touch, but 
tender.  In mouth, no clear exudate from salivary ducts.
Neck: JVP unable to assess due to positioning, no LAD
Lungs: Crackles, L worse than R.  High respiratory rate.
CV: Regular tachycardia, normal S1 and S2, no murmurs, rubs, 
gallops
Abdomen: Soft, not distended, with no tenderness.  No guarding 
or rebound tenderness.
GU: + foley
Ext: Warm, well perfused, 2+ pulses. No cyanosis or edema.  
Significant bruising on upper extremities from line IV placement 
attempts.
 
Pertinent Results:
Admission Labs:
___ 08:15AM BLOOD WBC-55.1* RBC-4.73 Hgb-15.3 Hct-44.4 
MCV-94 MCH-32.2* MCHC-34.4 RDW-13.2 Plt ___
___ 02:00AM BLOOD Neuts-90* Bands-0 Lymphs-1* Monos-6 Eos-0 
Baso-0 ___ Metas-2* Myelos-1*
___ 02:00AM BLOOD Glucose-286* UreaN-38* Creat-1.2* Na-140 
K-4.3 Cl-103 HCO3-21* AnGap-20
___ 02:00AM BLOOD ALT-38 AST-55* LD(LDH)-415* AlkPhos-206* 
TotBili-0.3
___ 02:00AM BLOOD Calcium-9.0 Phos-2.2* Mg-2.0
___ 02:03AM BLOOD Lactate-5.6*
___ 02:30AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-SM 

Discharge Labs:
___ 04:36AM BLOOD WBC-64.2* RBC-3.77* Hgb-12.6 Hct-35.8* 
MCV-95 MCH-33.4* MCHC-35.2* RDW-13.3 Plt Ct-91*
___ 04:36AM BLOOD Neuts-94* Bands-2 Lymphs-1* Monos-1* 
Eos-0 Baso-0 ___ Metas-1* Myelos-1* NRBC-1*
___ 04:36AM BLOOD Glucose-174* UreaN-23* Creat-0.5 Na-141 
K-4.6 Cl-111* HCO3-24 AnGap-11
___ 04:36AM BLOOD Calcium-7.3* Phos-2.0* Mg-1.8
___ 04:36AM BLOOD ALT-198* AST-138* AlkPhos-141* 
TotBili-0.4

Microbiology:
___ 1:40 am BLOOD CULTURE x2
   Blood Culture, Routine (Pending): 

___ 2:30 am URINE     Site: NOT SPECIFIED
      CHM S# ___ UCU ADDED ___. 
   URINE CULTURE (Preliminary): 
      ENTEROCOCCUS SP..    10,000-100,000 ORGANISMS/ML.. 

___ 3:57 pm STOOL     Site: STOOL     CONSISTENCY: SOFT
                            **FINAL REPORT ___
   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 
   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Reported to and read back by ___. ON ___ 
AT 0445. 
      CLOSTRIDIUM DIFFICILE. 
         FECES POSITIVE FOR C. DIFFICILE TOXIN BY EIA. 
           (Reference Range-Negative). 
         A positive result in a recently treated patient is of 
uncertain
         significance unless the patient is currently 
symptomatic
         (relapse). 

___ 4:05 pm URINE      Source: Catheter. 
   URINE CULTURE (Pending): 

Imaging:
CXR ___: Markedly suboptimal radiograph due to positioning. 
With this 
limitation in mind there are low lung volumes and bibasilar 
opacities at the lung bases, could be atelectasis. Moderately 
enlarged heart and large hiatus hernia are chronic. 

CT Abd + Pelvis ___: 
1. Large hiatal hernia. 
2. Pneumobilia. Surgical clips at the gallbladder fossa, status 
post 
cholecystectomy. 
3. Diffuse colonic wall edema and thickening with moderate 
extensive fat 
stranding in keeping with severe Clostridium difficile colitis. 
4. Stable T11 old compression fracture. 

CXR ___: Bilateral lower lobe collapse is stable on the right, 
worse on the left, now accompanied by increasing moderate left 
pleural effusion. Pulmonary edema is cleared. Large cardiac 
silhouette is unchanged. Left PIC line ends in the region of the 
azygos insertion in the SVC. No pneumothorax. Clinical service 
notified by telephone at the time of dictation.  

 
Brief Hospital Course:
___ year old woman, with a history of actively treated C. diff 
colitis, pneumobilia, CAD, hypertension, and hyperlipidemia, who 
was admitted to the ICU for severe sepsis secondary to C. diff 
colitis, c/b aspiration, tachycardia, parotitis, hypernatremia 
and a possible GI bleed.

# C diff Colitis: The patient presented with profuse diarrhea.  
Of note, she has a history of C. diff colitis diagnosed in 
___, for which she was actively being treated with 
Flagyl prior to admission.  Upon presentation to the ICU, she 
had a markedly high white count, and her C. diff toxin tests 
returned positive.  A CT scan on ___ revealed inflammation of 
the colon, but no perforation of the bowel.  She was treated 
aggressively, at first with Flagyl 500 mg IV q8h, vancomycin 500 
mg PO q6h and vancomycin 500 PR q6h (retention enema), to which 
tigecycline 100 mg IV, followed by 50 mg IV BID was added on 
___, per advice of the Infectious Disease team.  She was 
evaluated by surgery, but deemed to be a poor surgical candidate 
for colon resection.  Despite aggressive treatment, her WBC rose 
to a peak of 73.4, and remained elevated in the ___ thereafter.  
Her diarrhea continued, but lessened in volume.  Additionally, 
her abdomen became less tender over the course of her stay.
     She can continue her IV tigecycline and Flagyl at her 
nursing home, as she was prior to her hospital admission.

# Severe Sepsis: Upon admission, the patient showed evidence of 
organ dysfunction (kidneys andliver) with a source of infection 
(C. diff), meeting the criteria for severe sepsis.  She received 
IV fluid boluses to make up for her GI losses with diarrhea and 
to maintain good urine output.  Although initially hypotensive, 
she responded well to IVF and was subsequently normotensive for 
the rest of her admission.  Her liver enzymes showed improvement 
of perfusion, her INR responded to Vitamin K 5 mg x1, and her 
kidney function improved.  She was given IVF to maintain good 
urine output, and antibiotics for her source of infection.

# Aspiration: The patient had an acute episode of tachypnea on 
the afternoon of ___, which occurred after having some ice 
chips.  She subsequently had a Speech and Swallow evaluation, 
which determined that she would need to remain NPO, as she is at 
high risk for more aspiration.  If she and her family decide to 
pursue comfort feeding, it would be very appropriate for her.

# Sinus Tachycardia: Confirmed to be sinus tachycardia on 
EKG,likely multifactorial due to sepsis, volume depletion, 
withdrawal of beta blockers, anxiety and pain.  The patient was 
monitored on telemetry.  Her tachycardia was treated with fluid 
boluses and metoprolol.  It responded well to metoprolol 
succinate 50 mg PO BID.

# Parotitis: Patient developed tenderness and swelling in her 
right parotid on ___, which was treated with warm compresses.

#Hypernatremia: Most likely iatrogenic secondary to NS fluid 
boluses, with some element of her being unable to take in free 
water.  Sodium was corrected by giving free water IVF.

# GI bleed: The patient had melanotic stool on ___, with a 
stable hematocrit.  She was monitored for further signs of 
bleeding.  This likely occurred secondary to her colitis.

# Urinary Tract Infection: On admission, She had a mildly 
positive UA in the ED with WBC 6, many bacteria, small leuk 
esterase, and negative nitrite.  She denies any current urinary 
symptoms.  She received Levofloxacin 750 mg IV.  Culture was 
positive for Enterococcus, but the infectious disease team 
believed this may have been a contaminant.  A repeat urine 
culture is pending.

# Depression: She continued her home doses of Citalopram and 
Bupropion. 

# Goals of care: The ICU attending and team met with the 
patient's family to discuss goals of care.  They elected to 
transfer the patient back to the nursing home so that she can be 
more comfortable and happy.  They will continue antibiotics, and 
make further decisions about care as they arise.
 
Medications on Admission:
Flagyl 500 mg PO TID x 10 days (started ___
Simvastatin 20 mg PO daily
Metoprolol succinate 100 mg PO daily
Amlodipine 5 mg PO QHS
Furosemide 20 mg PO daily
Klor-Con 20 mEq PO daily
Cholestyramine 4 grams Q6H PRN loose stool
Loperamide 2 mg PO Q6H PRN diarrhea
Citalopram 60 mg PO daily -- tapered starting ___
Bupropion 100 mg PO BID
Lorazepam 0.25 mg PO Q8H standing
Lidoderm patch daily on right shoulder
Acetaminophen 650 mg PO TID
Oxycodone 5 mg PO BID standing
Oxycodone 5 mg PO Q6H PRN breakthrough pain
Multivitamin 1 tab PO daily
Vitamin D3 1000 units PO daily
 
Discharge Medications:
Flagyl 500 mg IV q8hr
Tigecycline 50 mg IV BID
Acetominophen 650 mg PO/NG q6hr prn fever, pain
Morphine sulfate ___ mg IV q4hr prn pain
Ondansetron 8 mg IV q8 hr prn nausea
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
C. diff colitis
severe sepsis
tachycardia
hypernatremia
parotitis
depression
 
Discharge Condition:
poor
 
Discharge Instructions:
Please continue IV antibiotics (tigecycline and Flagyl).  
Please continue to give medications in IV, IM or SC formulations 
if possible, as patient is a high aspiration risk.  
Please do not oversedate the patient with anxiolytics, pain 
medications or depression medications.
Please discuss with family, regarding medications for her 
comfort.
Please discuss comfort feeding and ways to reduce aspiration 
risk with family.
 
Followup Instructions:
___